US09169248B2
Synthesis of 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)pyrazol-4-yl]-N-methyl-acetamide
To a solution of 2-[4-chloro-3-methyl-5-(trifluoromethyl)pyrazol-1-yl]acetic acid (0.070 g, 0.29 mmol) in CH2Cl2 (2 mL) was added oxalyl chloride (0.10 mL, 1.16 mmol) and DMF (1 drop). The mixture was stirred for 30 min at room temperature and concentrated in vacuo. The solid obtained was transferred to another flask containing 1-(4-fluorophenyl)-N-methylpyrazol-4-amine (0.056 g, 0.29 mmol) and NEt3 (0.20 mL, 1.4 mmol) in CH2Cl2 (3 mL). The reaction mixture was stirred for 30 min at room temperature, quenched with water (50 mL), and extracted with ethyl acetate (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash chromatography (SiO2, 0-50% EtOAc/CH2Cl2 gradient elution) to give the title compound (0.045 g, 37%). 1H NMR (400 MHz, CDCl3) δ 8.01 (s, 1H), 7.70 (s, 1H), 7.64 (m, 2H), 7.17 (dd, J=8.4, 8.4 Hz, 2H), 4.80 (s, 2H), 3.28 (s, 3H); MS: (ES) m/z calculated for C17H14ClF4N5O [M+H]+ 416.1, found 416.1.

reactant | 2-[4-chloro-3-methyl-5-(trifluoromethyl)pyrazol-1-yl]acetic acid | 0.29 mmol, 0.070 g | ClC=1C(=NN(C1C(F)(F)F)CC(=O)O)C | C7H6ClF3N2O2
reactant | oxalyl chloride | 1.16 mmol, 0.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-fluorophenyl)-N-methylpyrazol-4-amine | 0.29 mmol, 0.056 g | FC1=CC=C(C=C1)N1N=CC(=C1)NC | C10H10FN3
reactant | NEt3 | 1.4 mmol, 0.20 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)pyrazol-4-yl]-N-methyl-acetamide | 0.045 g, 37% | ClC=1C(=NN(C1C)CC(=O)N(C)C=1C=NN(C1)C1=CC=C(C=C1)F)C(F)(F)F | C17H14ClF4N5O
